US08440689B2
A. Ethyl 4-(1,5-dimethyl-1H-pyrazol-4-yl)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate
Ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (0.179 g, 0.726 mmol), 1,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.242 g, 1.088 mmol), and PdCl2(dppf) (0.106 g, 0.145 mmol) were dispersed in DMA (2 mL). After 10 min, 2 N sodium carbonate (1.814 mL, 3.63 mmol) was added to the reaction mixture. The reaction mixture was purged with nitrogen, sealed in a vial, and then heated at 80° C. for 5 h. The mixture was subsequently filtered through a pad of Celite, rinsed with MeOH, and the filtrate was purified via reverse phase preparative HPLC. The fractions were concentrated in vacuo to give the title compound as tan needles (0.159 g, 71%). [M+H] calc'd for C14H18N4O2S, 307; found, 307.

reactant | Ethyl 4-chloro-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 0.726 mmol, 0.179 g | ClC1=NC(=NC(=C1C(=O)OCC)C)SC | C9H11ClN2O2S
reactant | 1,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.088 mmol, 0.242 g | CN1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
reactant | sodium carbonate | 3.63 mmol, 2 N, 1.814 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
catalyst | PdCl2(dppf) | 0.145 mmol, 0.106 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 4-(1,5-dimethyl-1H-pyrazol-4-yl)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 0.159 g, 71% | CN1N=CC(=C1C)C1=NC(=NC(=C1C(=O)OCC)C)SC | C14H18N4O2S
